US06342511B1
Stage 9a: 4-piperidino-tetrahydro-4H-thiopyran-4-carbonitrile
Magnesium sulphate (9.3 g, 77.4 mmoles), DMA (2.25 g, 25.8 mmoles), piperidine (4.4 g, 51.6 mmoles), tetrahydro-4H-thiopyran-4-one (3 g, 25.8 mmoles) and acetone cyanhydrin (2.2 g, 25.8 mmoles) are introduced in succession into a 250 ml two-necked flask. The reaction medium is agitated for 48 hours at 45° C.

reactant | Magnesium sulphate | 77.4 mmoles, 9.3 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | DMA | 25.8 mmoles, 2.25 g | CC(=O)N(C)C | C4H9NO
reactant | piperidine | 51.6 mmoles, 4.4 g | N1CCCCC1 | C5H11N
reactant | tetrahydro-4H-thiopyran-4-one | 25.8 mmoles, 3 g | S1CCC(CC1)=O | C5H8OS
reactant | acetone cyanhydrin | 25.8 mmoles, 2.2 g | CC(C#N)(O)C | C4H7NO
product | 4-piperidino-tetrahydro-4H-thiopyran-4-carbonitrile | N1(CCCCC1)C1(CCSCC1)C#N | C11H18N2S
